US07465806B2
To a solution of 1H-pyrrole-2-carboxylic acid ethyl ester (70 mg) in MeCN was added 3-bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole (139 mg), Cs2CO3 (180 mg), Bu4Nl (2 mg) and hexa-n-decyltri-n-butyl phosphonium bromide (10 mg). The mixture was stirred for 4 h at 60° C., whereupon it was cooled to RT and concentrated in vacuo. The residue was partitioned between water and ethyl acetate. The layers were separated and the aqueous phase was extracted with ethyl acetate. The combined organic phases were dried over anhydrous MgSO4 and concentrated in vacuo to provide 1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrrole-2-carboxylic acid ethyl ester (169 mg) which was directly used in the next step. MS (ESI+): m/e 337 [M+H]+, chloro pattern.

reactant | 1H-pyrrole-2-carboxylic acid ethyl ester | 70 mg | C(C)OC(=O)C=1NC=CC1 | C7H9NO2
reactant | 3-bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole | 139 mg | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
reactant | Cs2CO3 | 180 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeCN | CC#N | C2H3N
catalyst | hexa-n-decyltri-n-butyl phosphonium bromide | 10 mg | [Br-].C(CCCCCCCCC)C(C(C([PH+](CCCC)CCCC)(CCCCCCCCCC)CCCCCCCCCC)(CCCCCCCCCC)CCCCCCCCCC)(C)CCCCCCCCCC
product | 1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrrole-2-carboxylic acid ethyl ester | 169 mg | C(C)OC(=O)C=1N(C=CC1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C15H13ClN2O3S
